US07468375B2
Step 1: 4-Ethynyl-1-(4-fluoro-benzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
To a solution of 1-(4-fluoro-benzyl)-4-trifluoromethanesulfonyloxy-1H-pyrrolo[2,3-c]pyridine -5-carboxylic acid ethyl ester (2.0 g, 4.48 mmol) in DMF (4.5 mL) and diisopropylamine (4.5 mL) was added trimethylsilylalkyne (4.4 mL, 31.4 mmol), copper (I) iodide (68 mg, 0.36 mmol), and bis(triphenylphosphine) palladium (II) chloride (126 mg, 0.18 mmol). The reaction was vacuum degassed with nitrogen three times, and then heated in a pre-heated oil bath at 90° C. After thirty minutes, the reaction was cooled to room temperature and diluted with 20 mL of ethyl acetate. The solution was filtered through a silica plug (15 mm×10 mm), and concentrated. The resulting oil was dissolved in EtOH (25 mL), and potassium carbonate (1.24 g, 9 mmol) was added. The reaction was stirred for 18 hours at room temperature, and then the solids were removed by filtration. The solvent was removed by rotary evaporation, and the resulting residue was dissolved in CH2Cl2 (80 mL). The organic layer was washed with 2×50 mL of water, and then 50 mL of saturated NaCl. After drying the organic liquid over MgSO4, the solids were removed by filtration and then the solvent was removed by rotary evaporation to give the desired product. Yield 0.927 g, 64%. MS (APCI): Calc: 322, Found: (M+H) 323.

reactant | 1-(4-fluoro-benzyl)-4-trifluoromethanesulfonyloxy-1H-pyrrolo[2,3-c]pyridine -5-carboxylic acid ethyl ester | 4.48 mmol, 2.0 g | C(C)OC(=O)C=1C(=C2C(=CN1)N(C=C2)CC2=CC=C(C=C2)F)OS(=O)(=O)C(F)(F)F | C18H14F4N2O5S
reactant | potassium carbonate | 9 mmol, 1.24 g | C([O-])([O-])=O.[K+].[K+]
reactant | diisopropylamine | 4.5 mL | C(C)(C)NC(C)C | C6H15N
solvent | DMF | 4.5 mL | CN(C)C=O | C3H7NO
catalyst | copper (I) iodide | 0.36 mmol, 68 mg | [Cu]I
catalyst | bis(triphenylphosphine) palladium (II) chloride | 0.18 mmol, 126 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-Ethynyl-1-(4-fluoro-benzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=CN1)N(C=C2)CC2=CC=C(C=C2)F)C#C | C19H15FN2O2
